US03965181
This preparation illustrates methods according to step 1 of the process for preparing the compounds of formula A. In this preparation a solution containing 8 g. of 5-chloro-5H-dibenzo[a,d]cycloheptene in 200 ml. of anhydrous tetrahydrofuran is added dropwise, under nitrogen, to a stirred solution containing 0.042 moles of 3-(2-tetrahydropyranyloxy)-prop-1-ynyl-1-magnesium chloride in 210 ml. of anhydrous tetrahydrofuran, at room temperature. The resulting mixture is heated for 2 hours at reflux and then allowed to stand, with stirring, for 16 hours at room temperature. The reaction mixture is then treated, first with 25 ml. of saturated aqueous ammonium chloride solution, then with 75 ml. of water, and then concentrated under reduced pressure to remove most of the organic solvent resulting in a two-phase liquid-liquid system, which is then shaken and extracted with three 60 ml. portions of ethyl ether. The ethereal extracts are combined and washed consecutively with 1N aqueous hydrochloric acid, saturated aqueous sodium bicarbonate and saturated brine. The washed extracts are dried over sodium sulfate-potassium carbonate and then evaporated under reduced pressure affording a residue of 5-[3-(2-tetrahydropyranyloxy)-prop-1-ynyl]-5H-dibenzo[a,d] cycloheptene, which is divided into two portions, one of which is further purified by column chromatography on silica gel. The other portion is used directly as starting material for the next step.

reactant | 5-chloro-5H-dibenzo[a,d]cycloheptene | ClC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C15H11Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-[3-(2-tetrahydropyranyloxy)-prop-1-ynyl]-5H-dibenzo[a,d] cycloheptene | O1C(CCCC1)OCC#CC1C2=C(C=CC3=C1C=CC=C3)C=CC=C2 | C23H22O2
